US07705018B2
A Schlenk tube was charged with 2-chloro-N-((8-chloro-2-(2-chlorophenyl)-quinolin-3-yl)methyl)-5-fluoropyrimidin-4-amine (0.1027 g, 0.2368 mmol), benzophenone imine (0.04751 ml, 0.2842 mmol), tris(dibenzylideneacetone)-dipalladium (0) (0.05421 g, 0.05920 mmol), rac-2,2-bis(diphenylphosphino)-1,1-binaphthyl (0.1106 g, 0.1776 mmol), sodium tert-butoxide (0.03186 g, 0.3315 mmol), and 2 ml of toluene, and the mixture was purged with argon and stirred at 80° C. After 19.5 hr, the mixture was cooled to room temperature and diluted with Et2O (40 ml), filtered, rinsed with Et2O (40 ml), and concentrated under reduced pressure to give N4-((8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-N2-(diphenylmethylene)-5-fluoropyrimidine-2,4-diamine as an orange syrup: LC-MS m/z 578.0 and 580.1 [M+H]+. The orange syrup was carried on crude without purification for the next step.

reactant | 2-chloro-N-((8-chloro-2-(2-chlorophenyl)-quinolin-3-yl)methyl)-5-fluoropyrimidin-4-amine | 0.2368 mmol, 0.1027 g | ClC1=NC=C(C(=N1)NCC=1C(=NC2=C(C=CC=C2C1)Cl)C1=C(C=CC=C1)Cl)F | C20H12Cl3FN4
reactant | benzophenone imine | 0.2842 mmol, 0.04751 ml | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | rac-2,2-bis(diphenylphosphino)-1,1-binaphthyl | 0.1776 mmol, 0.1106 g | C1(=CC=CC=C1)P(C1(C(=C2C=CC=CC2=CC1)C1=CC=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H34P2
reactant | sodium tert-butoxide | 0.3315 mmol, 0.03186 g | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)-dipalladium (0) | 0.05920 mmol, 0.05421 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | N4-((8-chloro-2-(2-chlorophenyl)quinolin-3-yl)methyl)-N2-(diphenylmethylene)-5-fluoropyrimidine-2,4-diamine | ClC=1C=CC=C2C=C(C(=NC12)C1=C(C=CC=C1)Cl)CNC1=NC(=NC=C1F)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H22Cl2FN5
